US08431695B2
Intermediate T: Preparation of piperazine-1-carboxylic acid methylamide
Palladium on carbon (300 mg, 10% by wt.) was placed under an inert atmosphere and suspended in EtOH (10 mL). A solution of 4-benzyl-piperazine-1-carboxylic acid methylamide (1.50 g, 6.43 mmol) dissolved in 2:1 v/v EtOH/THF (96 mL) was added. The reaction mixture was placed under H2 atmosphere (1 atmosphere pressure) and stirred overnight. The resulting mixture was filtered through a pad of Celite® and the solvent was concentrated in vacuo to give 916 mg (99%) of the title compound as clear oil. 1H-NMR (300 MHz, DMSO-d6) 6.30 (broad d, 1H), 3.15 to 3.12 (m, 5H), 2.59 to 2.55 (m, 4H), 2.53 (d, 3H).

reactant | 4-benzyl-piperazine-1-carboxylic acid methylamide | 6.43 mmol, 1.50 g | CNC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C13H19N3O
catalyst | Palladium on carbon | 300 mg | [Pd] | Pd
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOH THF | 96 mL | CCO.C1CCOC1
product | piperazine-1-carboxylic acid methylamide | 916 mg, 99% | CNC(=O)N1CCNCC1 | C6H13N3O
